US05401774
A solution of sodium periodate, 4.28 g. (20 mole) in 40 ml. of water is added dropwise to 6-fluoro-5-methoxy-2-methyl-1-(ρ-methylthiobenzylidene)-3-indenyl acetic acid, 3.70 g. (10 mole) in 300 ml. methanol and enough acetone to cause solution. This solution is stirred over night at room temperature and filtered. The filtrate is evaporated at 30° to a small volume which causes the product to precipitate. The suspension is diluted with several volumes of water, cooled and collected. After rinsing with water and cold methanol-water (1:1), the product is dried in vacuo over potassium hydroxide pellets, and then in a vacuum oven at 70° C. The crude product is recrystallized from methylene chloridepetroleum ether to give 6-fluoro-5-methoxy-2-methyl-1-(ρ-methylsulfinylbenzylidene)-3-indenyl acetic acid (M.P. 190-193°).

reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | O | H2O
reactant | 6-fluoro-5-methoxy-2-methyl-1-(ρ-methylthiobenzylidene)-3-indenyl acetic acid | FC1=C(C=C2C(=C(C(C2=C1)=CC1=CC=C(C=C1)SC)C)CC(=O)O)OC | C21H19FO3S
reactant | methanol | CO | CH4O
solvent | acetone | CC(=O)C | C3H6O
product | 6-fluoro-5-methoxy-2-methyl-1-(ρ-methylsulfinylbenzylidene)-3-indenyl acetic acid | FC1=C(C=C2C(=C(C(C2=C1)=CC1=CC=C(C=C1)S(=O)C)C)CC(=O)O)OC | C21H19FO4S
